### PR TITLE
[Merged by Bors] - feat(GroupTheory/ResiduallyFinite): characterize residually finite groups by homs to finite groups

### PR DESCRIPTION
**Pull request by vlad902**
Prove the equivalence of the definition of residually finite groups to another common characterization of residually finite groups.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/ResiduallyFinite.lean [hunk 1]
```diff
@@ -71,6 +73,22 @@ theorem residuallyFinite_iff_exists_finiteIndex :
   simp_rw [residuallyFinite_iff_forall_finiteIndex, ← Classical.not_imp, ← not_forall,
     not_imp_not]
 
+/-- `G` is residually finite iff for every pair of distinct elements `g` and `h` there exists a
+group homomorphism `f` to a finite group `H` such that `f g ≠ f h`. -/
+@[to_additive]
+theorem residuallyFinite_iff_forall_exists_finite_monoidHom {G : Type u} [Group G] :
+    ResiduallyFinite G ↔
+      ∀ g h : G, g ≠ h → ∃ (H : Type u) (_ : Group H) (_ : Finite H) (f : G →* H), f g ≠ f h := by
```
Comment (vlad902) [inline Mathlib/GroupTheory/ResiduallyFinite.lean]: I use an explicit universe because `H` needs to live in the same universe as `G`. I don't know if there's a more elegant way to state that `H` should be in the same universe as a `Type*`.

Comment (tb65536) [reply Mathlib/GroupTheory/ResiduallyFinite.lean]: I would split this into two lemmas. For the forward direction, you may as well just assert the existence of a finite index normal subgroup such that `g` and `h` differ in the quotient. For the reverse direction (proving `ResiduallyFinite`), you may as well make `h = 1` to simplify the usage of this theorem?

Comment (vlad902) [reply Mathlib/GroupTheory/ResiduallyFinite.lean]: In the forward direction, `residuallyFinite_iff_exists_finiteIndexNormalSubgroup` already essentially states this modulo that its stated for a single element. Indeed the current proof is just repackaging this lemma in another form.

Comment (tb65536) [reply Mathlib/GroupTheory/ResiduallyFinite.lean]: Right, so for the forward direction, do you think the phrasing you have with two elements would still be potentially useful downstream? I could imagine separating non-identity elements like this could still be useful?

Comment (vlad902) [reply Mathlib/GroupTheory/ResiduallyFinite.lean]: Yeah I do think that could be handy, I've split the directions and updated their spelling.

File: Mathlib/GroupTheory/ResiduallyFinite.lean [hunk 2]
```diff
@@ -71,6 +71,26 @@ theorem residuallyFinite_iff_exists_finiteIndex :
   simp_rw [residuallyFinite_iff_forall_finiteIndex, ← Classical.not_imp, ← not_forall,
     not_imp_not]
 
+/-- If `G` is residually finite, for every pair of distinct elements `g`, `h` there exists a finite
+index normal subgroup `H` such that `g` and `h` differ in the quotient `G ⧸ H`. -/
+@[to_additive]
+theorem exists_finiteIndexNormalSubgroup_of_residuallyFinite (hr : ResiduallyFinite G) (g h : G)
```
Comment (tb65536) [inline Mathlib/GroupTheory/ResiduallyFinite.lean]: Can you make this a typeclass, and also add a typeclass variant of `residuallyFinite_iff_exists_finiteIndexNormalSubgroup.mp`?
```suggestion
theorem exists_finiteIndexNormalSubgroup_of_residuallyFinite [ResiduallyFinite G] (g h : G)
```

File: Mathlib/GroupTheory/ResiduallyFinite.lean [hunk 3]
```diff
@@ -71,6 +71,26 @@ theorem residuallyFinite_iff_exists_finiteIndex :
...
+    (hgh : g ≠ h) : ∃ H : FiniteIndexNormalSubgroup G, (g : G ⧸ H.toSubgroup) ≠ ↑h := by
+  obtain ⟨H, hH⟩ := residuallyFinite_iff_exists_finiteIndexNormalSubgroup.mp hr (g⁻¹ * h)
+    (fun h ↦ hgh <| eq_of_inv_mul_eq_one h)
+  exact ⟨H, by simpa [QuotientGroup.eq]⟩
+
+/-- `G` is residually finite if for every element `g` not equal to `1` there exists a group
+homomorphism `f` to a finite group `H` such that `f g ≠ 1`. -/
+@[to_additive]
+theorem residuallyFinite_of_forall_exists_finite_monoidHom
+    (h : ∀ g : G, g ≠ 1 → ∃ (H : Type) (_ : Group H) (_ : Finite H) (f : G →* H), f g ≠ 1) :
```
Comment (tb65536) [inline Mathlib/GroupTheory/ResiduallyFinite.lean]: I think universe polymorphism would still be good for this one?

File: Mathlib/GroupTheory/ResiduallyFinite.lean (hunk 2 above)
Comment (vlad902) [reply Mathlib/GroupTheory/ResiduallyFinite.lean]: I hope I interpreted this correctly.

File: Mathlib/GroupTheory/ResiduallyFinite.lean [hunk 4]
```diff
@@ -71,6 +76,26 @@ theorem residuallyFinite_iff_exists_finiteIndex :
   simp_rw [residuallyFinite_iff_forall_finiteIndex, ← Classical.not_imp, ← not_forall,
     not_imp_not]
 
+/-- If `G` is residually finite, for every pair of distinct elements `g`, `h` there exists a finite
+index normal subgroup `H` such that `g` and `h` differ in the quotient `G ⧸ H`. -/
+@[to_additive]
+theorem exists_finiteIndexNormalSubgroup_of_residuallyFinite [ResiduallyFinite G] (g h : G)
+    (hgh : g ≠ h) : ∃ H : FiniteIndexNormalSubgroup G, (g : G ⧸ H.toSubgroup) ≠ ↑h := by
+  obtain ⟨H, hH⟩ := exists_finiteIndexNormalSubgroup_notMem (g⁻¹ * h)
+    (fun h ↦ hgh <| eq_of_inv_mul_eq_one h)
```
Comment (tb65536) [inline Mathlib/GroupTheory/ResiduallyFinite.lean]: You don't need the parentheses around the `fun`.

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/GroupTheory/ResiduallyFinite.lean [hunk 5]
```diff
@@ -71,6 +76,26 @@ theorem residuallyFinite_iff_exists_finiteIndex :
   simp_rw [residuallyFinite_iff_forall_finiteIndex, ← Classical.not_imp, ← not_forall,
     not_imp_not]
 
+/-- If `G` is residually finite, for every pair of distinct elements `g`, `h` there exists a finite
+index normal subgroup `H` such that `g` and `h` differ in the quotient `G ⧸ H`. -/
+@[to_additive]
+theorem exists_finiteIndexNormalSubgroup_of_residuallyFinite [ResiduallyFinite G] (g h : G)
+    (hgh : g ≠ h) : ∃ H : FiniteIndexNormalSubgroup G, (g : G ⧸ H.toSubgroup) ≠ ↑h := by
+  obtain ⟨H, hH⟩ := exists_finiteIndexNormalSubgroup_notMem (g⁻¹ * h)
+    fun h ↦ hgh <| eq_of_inv_mul_eq_one h
```
Comment (adomani) [inline Mathlib/GroupTheory/ResiduallyFinite.lean]:
```suggestion
  obtain ⟨H, hH⟩ :=
    exists_finiteIndexNormalSubgroup_notMem (g⁻¹ * h) fun h ↦ hgh <| eq_of_inv_mul_eq_one h
```
I find it slightly easier to figure out what the function is in this shape.

**Review by adomani — COMMENTED** [review]
Thanks!  Feel free to accept or ignore the suggestion.

bors d+
